### PR TITLE
[Merged by Bors] - feat(Tactic): add `zetaDelta` option to `ring_nf` and `abel_nf` and change default to `false`

### PR DESCRIPTION
**Pull request by JovanGerb**
This PR adds the `zetaDelta` configuration option to `ring_nf` and `abel_nf`, so that users can control whether local let variables are unfolded. It is set to false by default. Prior to this PR it was set to true.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: MathlibTest/ring.lean [hunk 1]
```diff
@@ -203,3 +203,20 @@ example (x : ℤ) (R : ℤ → ℤ → Prop) : True := by
...
+
+-- Test that `ring_nf` doesn't unfold local let expressions, and `ring_nf!` does
+example (x : ℝ) (f : ℝ → ℝ) : True := by
+  let y := x
+  have : x - y = 0 := by
+    fail_if_success ring_nf
+    ring_nf!
+  have : x = y := by
+    fail_if_success ring_nf!
+    ring_nf!
```
Comment (eric-wieser) [inline MathlibTest/ring.lean:215]: I don't understand this test, should the first `!`  be deleted?

Comment (JovanGerb) [reply MathlibTest/ring.lean:215]: Yes it should

File: Mathlib/Tactic/Abel.lean [hunk 2]
```diff
@@ -469,7 +472,7 @@ partial def abelNFCore
     /-- The `evalAtom` implementation passed to `eval` calls `go` if `cfg.recursive` is true,
     and does nothing otherwise. -/
     evalAtom := if cfg.recursive then go false else fun e ↦ pure { expr := e }
-  go true e
+  withConfig ({ · with zetaDelta := cfg.zetaDelta }) <| go true e
```
Comment (eric-wieser) [inline Mathlib/Tactic/Abel.lean:475]: Does this do anything? the `ctx` is already being passed into `Simp.main` a few lines above.

File: Mathlib/Tactic/Ring/RingNF.lean [hunk 3]
```diff
@@ -156,7 +158,7 @@ partial def M.run
     evalAtom := if cfg.recursive
       then fun e ↦ rewrite e false nctx rctx s
       else fun e ↦ pure { expr := e }
-  x nctx rctx s
+  withConfig ({ · with zetaDelta := cfg.zetaDelta }) <| x nctx rctx s
```
Comment (eric-wieser) [inline Mathlib/Tactic/Ring/RingNF.lean:161]: Similarly, should this (also?) be set on line 128 instead when the `ctx` is created?

File: Mathlib/Tactic/Abel.lean (hunk 2 above)
Comment (JovanGerb) [reply Mathlib/Tactic/Abel.lean:475]: There are also a (`withReducible`) `whnf` and `isDefEq` that aren't influenced by the `simp` configuration. I think it is reasonable to also have those in the appropriate `zetaDelta` configuration.

File: Mathlib/Tactic/Ring/RingNF.lean (hunk 3 above)
Comment (JovanGerb) [reply Mathlib/Tactic/Ring/RingNF.lean:161]: I don't think the position matters. The only MetaM function that this would influence is `Lean.Meta.SimpTheorems.addConst`, which is applied on some fixed constants.
If you prefer, I'm happy to move it to the beginning of the function.

**Comment by JovanGerb** [comment]
From the test I found out that in `ring_nf` I forgot to add the `zeta_delta` to the context of the `simp` call. So for both tactics, the `zetaDelta` is set in both the `simp` context and the `MetaM` context.

File: Mathlib/Tactic/Ring/RingNF.lean (hunk 3 above)
Comment (eric-wieser) [reply Mathlib/Tactic/Ring/RingNF.lean:161]: I was describing just the change you already made above.

**Comment by JovanGerb** [comment]
When making the last fix, I found a bug in `ring_nf` with the `AtomM` monad, which is used to keep track of atoms. The problem is that bound variables can go in and out of scope, and then the `isDefEq` comparison that compares two atoms can throw an "unknown free variable" error. So the `isDefEq` should really be wrapped in a `try ... catch _ => pure false`.

Shall I make a separate PR for this?

**Comment by j-loreaux** [comment]
@JovanGerb yes I would make a separate PR for that bug.

**Comment by j-loreaux** [comment]
Why is the default value of this paramter changing? do we have evidence that setting it to false should be preferred? Is there some Zulip discussion?

**Comment by JovanGerb** [comment]
Here is a message claiming that `zetaDelta := false` is the preferred setting: https://leanprover.zulipchat.com/#narrow/channel/239415-metaprogramming-.2F-tactics/topic/whnf.20variant.20which.20preserves.20let-bindings/near/482733494

**Comment by JovanGerb** [comment]
I think the reasoning is the same as for `simp`, which also got the default `zetaDelta := false`. It gives people more control to hide the definitions of let variables from these tactics (otherwise there isn't much point in having the local let variables). It seems natural that if you want it to see through the let variables, then you explicitly unfold them.

**Review by kim-em — APPROVED** [review]

**Comment by kim-em** [comment]
bors merge
